US08975254B2
a) (R)-3-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (733 mg, 2.79 mmol) and 3-acetyl-1H-pyrazole-5-carboxylic acid (431 mg, 2.79 mmol) using the method of Example 34(d). Yield 121 mg. 1H NMR (400 MHz; d6-DMSO): δ 1.49 (d, 3H), 2.48 (s, 3H), 3.63 (m, 2H), 4.67 (m, 1H), 6.98 (d, 1H), 7.25 (bs, 1H), 7.76 (m, 2H), 7.89 (d, 1H), 14.16 (s, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 2.79 mmol, 733 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F)C | C13H12F2N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 2.79 mmol, 431 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (R)-3-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F)C | C19H16F2N6O2
